US04623652
2-(Phenylaminocarbonylamino)ethylamine
To a stirring suspension of 0.057 mole of acetylethylene diamine in 100 ml of methylene chloride at 10° C. was added dropwise 0.057 mole of phenyl isocyanate. Soon after the addition a solid precipitated. 100 ml of anhydrous ether was added to the reaction mixture and stirring was continued for another 30 minutes. The solid was recovered by filtration, dissolved in 50 ml of 15% hydrochloric acid, and the solution was heated to 80° C. for 4 hours. Removal of the aqueous acid afforded the product which had a melting point of 190.4° C.

reactant | acetylethylene diamine | 0.057 mole | C(C)(=O)NCCN | C4H10N2O
reactant | phenyl isocyanate | 0.057 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(Phenylaminocarbonylamino)ethylamine | C1(=CC=CC=C1)NC(=O)NCCN | C9H13N3O
